US07678803B2
1-(2-Amino-4-methyl-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one
3,6,6-Trimethyl-1,5,6,7-tetrahydro-indol-4-one (0.7 g, 4 mmol), sodium hydride (60% in oil, 0.20 g, 4.8 mmol), 7-Fluoro-4-methyl-quinazolin-2-ylamine (0.7 g, 4 mmol), and N,N-dimethylformamide are heated at 150 degrees Celsius for 2 h. The mixture is extracted with ethyl acetate/water. The organic layer is dried and concentrated. The residue is purified by column chromatography, affording 0.9 g of a solid 1-(2-Amino-4-methyl-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one (68%). LC/MS m/z=335 [M+H]+.

reactant | 3,6,6-Trimethyl-1,5,6,7-tetrahydro-indol-4-one | 4 mmol, 0.7 g | CC1=CNC=2CC(CC(C12)=O)(C)C | C11H15NO
reactant | sodium hydride | 4.8 mmol, 0.20 g | [H-].[Na+]
reactant | 7-Fluoro-4-methyl-quinazolin-2-ylamine | 4 mmol, 0.7 g | FC1=CC=C2C(=NC(=NC2=C1)N)C | C9H8FN3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2-Amino-4-methyl-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.9 g | NC1=NC2=CC(=CC=C2C(=N1)C)N1C=C(C=2C(CC(CC12)(C)C)=O)C | C20H22N4O
